US04184871
A 1.5 g sample of p-nitrobenzaldehyde and 1.7 g of p-nitrobenzylcyanide were dissolved in 5 ml of hot ethanol, and 0.05 ml of pyridine was added. The mixture was heated for 10 minutes. After cooling overnight, the precipitated crystals were filtered and recrystallized from a mixture of acetone and ethanol to obtain 1-cyano-1,2-bis(p-nitrophenyl)ethylene having a melting point of 216.5°-217.5° C.

reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | p-nitrobenzylcyanide | 1.7 g | [N+](=O)([O-])C1=CC=C(CC#N)C=C1 | C8H6N2O2
reactant | pyridine | 0.05 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-cyano-1,2-bis(p-nitrophenyl)ethylene | C(#N)C(=CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C15H9N3O4
